US05994368
Sodium hydride (60% dispersion in mineral oil, 41.9 mg) was added to a solution of N-(tert-butoxycarbonyl)-4-methylcarbamoylaniline (250 mg) in dimethylformamide (2.5 ml) in ice water bath under nitrogen and stirred for 30 minutes under same condition. To the mixture was added tert-butylbromoacetate (234 mg) and stirred at ambient temperature for 20 hours. The reaction mixture was poured into water and extracted with chloroform. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was recrystallized from ethyl acetate--n-hexane to give N-(tert-butoxycarbonyl)-N-(tert-butoxycarbonylmethyl)-4-methylcarbamoylaniline (280 mg).

reactant | Sodium hydride | 41.9 mg | [H-].[Na+]
reactant | N-(tert-butoxycarbonyl)-4-methylcarbamoylaniline | 250 mg | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)C(NC)=O | C13H18N2O3
reactant | tert-butylbromoacetate | 234 mg | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
product | N-(tert-butoxycarbonyl)-N-(tert-butoxycarbonylmethyl)-4-methylcarbamoylaniline | 280 mg | C(C)(C)(C)OC(=O)N(C1=CC=C(C=C1)C(NC)=O)CC(=O)OC(C)(C)C | C19H28N2O5
